US08471005B2
(S)-1-(3-Methoxy-4-nitro-phenyl)-piperidine-3-carboxylic acid was prepared by reacting 4-fluoro-2-methoxy-1-nitro-benzene (342 mg, 2.0 mmol) with (S)-Piperidine-3-carboxylic acid (258 mg, 2.0 mmol) at 80° C. in DMF using K2CO3 (608 mg, 2.20 mmol) as a base scavenger. After 16 h the reaction was concentrated under reduced pressure and the residue was partitioned between EtOAc and water. The aqueous phase was acidified with 1N HCl to pH 4-5. The resulting yellow solid was filtered, rinsed with water, and air dried overnight to yield 352 mg (63%) of (S)-1-(3-Methoxy-4-nitro-phenyl)-piperidine-3-carboxylic acid as a yellow solid. LC/MS (E/I+) 281.08 (M+H).

reactant | 4-fluoro-2-methoxy-1-nitro-benzene | 2.0 mmol, 342 mg | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | (S)-Piperidine-3-carboxylic acid | 2.0 mmol, 258 mg | N1C[C@H](CCC1)C(=O)O | C6H11NO2
reactant | K2CO3 | 2.20 mmol, 608 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-1-(3-Methoxy-4-nitro-phenyl)-piperidine-3-carboxylic acid | 352 mg, 63% | COC=1C=C(C=CC1[N+](=O)[O-])N1C[C@H](CCC1)C(=O)O | C13H16N2O5
